US06756382B2
A solution of 1-(8-aminooctyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (1.2 g, 3.26 mmol) and triethylamine (500 μL, 3.59 mmol) in dichloromethane (30 mL) was cooled to 0° C. Benzoyl chloride (380 μL, 3.26 mmol) was slowly added dropwise. The reaction mixture was allowed to slowly warm to ambient temperature. After several hours the reaction mixture was washed with distilled water (1×50 mL) and brine (2×50 mL), dried over sodium sulfate and then concentrated under reduced pressure to provide 1.5 g of crude orange gooey material. This material was purified by column chromatography (65 g of silica gel, eluting with 7.5% methanol in dichloromethane). The purified material was dissolved in a small amount of dichloromethane and the solution was diluted with hexane to precipitate a white powder. This material was isolated by filtration, washed with hexanes and then dried in a vacuum oven at 60° C. overnight to provide 0.72 g of N-[8-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)octyl]benzamide as a white powder, m.p. 149.5-151.3° C. Analysis: Calculated for C29H37N6O: % C, 73.85; % H, 7.91; % N, 14.85. Found: % C, 73.46; % H, 7.79; % N, 14.56.

reactant | 1-(8-aminooctyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.26 mmol, 1.2 g | NCCCCCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C22H33N5
reactant | triethylamine | 3.59 mmol, 500 μL | C(C)N(CC)CC | C6H15N
reactant | Benzoyl chloride | 3.26 mmol, 380 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-[8-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)octyl]benzamide | 0.72 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCCCCCNC(C2=CC=CC=C2)=O)CCCC | C29H37N5O
